US07767674B2
1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-{4-[4-(3,3-dimethyl-butyryl)-piperazin-1-yl]-phenyl}-urea
The title compound is prepared by reaction of 1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(4-piperazin-1-yl-phenyl)-urea (0.20 g, 0.46 mmol) with 0.51 mmol of 3,3-Dimethyl-butyric acid, (0.06 g, 0.46 mmol) of 1-Hydroxybenzotriazole hydrate and (0.8 g, 0.46 mmol) of polymer supported carbodiimide, dissolved in 16 mL of CH2Cl2. Mixture is stirred at r.t.o.n. It is filtered and the resin is washed with CH2Cl2 Solvent is evaporated and the residue is purified with an SCX cartridge eluting with NH4OH/CH3OH 2 N. ES+(m/z) 531 [M+H].

reactant | 1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(4-piperazin-1-yl-phenyl)-urea | 0.46 mmol, 0.20 g | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC1=CC=C(C=C1)N1CCNCC1 | C25H32N6O
reactant | 3,3-Dimethyl-butyric acid | 0.51 mmol, 0.06 g | CC(CC(=O)O)(C)C | C6H12O2
reactant | 1-Hydroxybenzotriazole hydrate | O.ON1N=NC2=C1C=CC=C2
reactant | carbodiimide | N=C=N | CH2N2
solvent | CH2Cl2 | 16 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-{4-[4-(3,3-dimethyl-butyryl)-piperazin-1-yl]-phenyl}-urea | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC1=CC=C(C=C1)N1CCN(CC1)C(CC(C)(C)C)=O | C31H42N6O2
